US04863482
Preparation of 2-methylamino-6-methylamino-4-(β,γ-dihydroxypropyl)-aminonitrobenzene
A mixture of 0.01 mole (2 g) of 2-methylamino-6-methylamino-4-fluoronitrobenzene and 38 g of 3-amino propane 1,2-diol in 7 ml of dioxan diluted with 1 ml of N-methylpyrrolidone was refluxed for 15 hours.

reactant | 2-methylamino-6-methylamino-4-fluoronitrobenzene | 0.01 mole, 2 g | CNC1=C(C(=CC(=C1)F)NC)[N+](=O)[O-] | C8H10FN3O2
reactant | 3-amino propane 1,2-diol | 38 g | NCC(CO)O | C3H9NO2
reactant | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | dioxan | 7 ml | O1CCOCC1 | C4H8O2
product | 2-methylamino-6-methylamino-4-(β,γ-dihydroxypropyl)-aminonitrobenzene | CNC1=C(C(=CC(=C1N)CC(CO)O)NC)[N+](=O)[O-] | C11H18N4O4
